US07737149B2
N-[5-[(3,5-Dimethoxyphenyl)methoxy]-2H-pyrazol-3-yl]-6-piperazin-1-yl-pyridine-3-carboxamide
6-[4-[(2-Methylpropan-2-yl)oxycarbonyl]piperazin-1-yl]pyridine-3-carboxylic acid (150 mg, 0.412 mmol) was dissolved in dry THF (10 ml), 1-chloro-N,N,2-trimethyl-prop-1-en-1-amine (65 μl, 0.412 mmol) was added and the mixture was stirred at room temperature under nitrogen overnight. Pyridine (40 μl, 0.412 mmol) and tert-butyl 5-amino-3-[(3,5-dimethoxyphenyl)methoxy]pyrazole-1-carboxylate (142 mg, 0.343 mmol) were added and the mixture was stirred at 65° C. for 18 h. The mixture was then cooled to room temperature and stirred overnight with 4 M HCl in dioxane (1.8 ml, 7.20 mmol). The mixture was then filtered and the solid was washed with hexane. The product was purified on acidic prep. HPLC, eluting with a gradient of 16-26% MeCN in water (containing 0.1% TFA). The product containing fractions were neutralised with aq. NaHCO3 and the acetonitrile removed under vacuum. The product precipitated out and was collected by filtration. This was further washed with water and dried in vacuo to give the title compound (39 mg, 26%) as a white

reactant | 6-[4-[(2-Methylpropan-2-yl)oxycarbonyl]piperazin-1-yl]pyridine-3-carboxylic acid | 0.412 mmol, 150 mg | CC(C)(C)OC(=O)N1CCN(CC1)C1=CC=C(C=N1)C(=O)O | C15H21N3O4
reactant | 1-chloro-N,N,2-trimethyl-prop-1-en-1-amine | 0.412 mmol, 65 μl | ClC(=C(C)C)N(C)C | C6H12ClN
reactant | Pyridine | 0.412 mmol, 40 μl | N1=CC=CC=C1 | C5H5N
reactant | tert-butyl 5-amino-3-[(3,5-dimethoxyphenyl)methoxy]pyrazole-1-carboxylate | 0.343 mmol, 142 mg | NC1=CC(=NN1C(=O)OC(C)(C)C)OCC1=CC(=CC(=C1)OC)OC | C17H23N3O5
reactant | HCl | 4 M | Cl | ClH
reactant | dioxane | 7.20 mmol, 1.8 ml | O1CCOCC1 | C4H8O2
solvent | THF | 10 ml | C1CCOC1 | C4H8O
product | N-[5-[(3,5-Dimethoxyphenyl)methoxy]-2H-pyrazol-3-yl]-6-piperazin-1-yl-pyridine-3-carboxamide | 39 mg, 26% | COC=1C=C(C=C(C1)OC)COC=1C=C(NN1)NC(=O)C=1C=NC(=CC1)N1CCNCC1 | C22H26N6O4
